US04051141
Synthesis of 5-phenacyl-thieno[3,2-c]pyridinium bromide (derivative No. 24)
A mixture of thieno[3,2-c]pyridine (13.5 g; 0.10 mole) and phenacyl bromide (19.9 g) (0.10 mole) in acetone (200 ml) is stirred during two hours at room temperature.

reactant | thieno[3,2-c]pyridine | 0.10 mole, 13.5 g | S1C=CC=2C=NC=CC21 | C7H5NS
reactant | phenacyl bromide | 0.10 mole, 19.9 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 5-phenacyl-thieno[3,2-c]pyridinium bromide | [Br-].C(C(=O)C1=CC=CC=C1)[N+]1=CC2=C(C=C1)SC=C2 | InChI=1S/C15H12NOS.BrH/c17-14(12-4-2-1-3-5-12)11-16-8-6-15-13(10-16)7-9-18-15;/h1-10H,11H2;1H/q+1;/p-1
